US07345180B2
The methyl 4-methylamino-3-nitrobenzoate (6.3 g) obtained above was suspended in 1,4-dioxane (125 ml). 20% Palladium hydroxide (6.3 g) was added thereto, and the mixture was stirred for 91 hours at room temperature in a hydrogen atmosphere. Insoluble matter was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (eluting solvent; ethyl acetate:n-hexane 1:4→2:3) to give methyl 3-amino-4-methylaminobenzoate (3.3 g, Y.:62%).

reactant | methyl 4-methylamino-3-nitrobenzoate | 6.3 g | CNC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 125 ml | O1CCOCC1 | C4H8O2
catalyst | Palladium hydroxide | 6.3 g | [OH-].[Pd+2].[OH-]
product | methyl 3-amino-4-methylaminobenzoate | 3.3 g, 62% | NC=1C=C(C(=O)OC)C=CC1NC | C9H12N2O2
